US04594341
4-N-(Carboxymethyl)-6-[carboxy-3-phenylpropylamino]-perhydro-1,4-thiazepin-5-one
4-[Carbomethoxymethyl]-6-[carboethoxy-3-phenyl propylamino]-perhydro-1,4-thiazepin-5-one (0.1 g) is dissolved in 1.5 ml of methanol and 0.5 ml of 1M sodium hydroxide. At the end of 4 hours at room temperature, 2 ml of water is added. The resulting solution is loaded onto a column of Dowex-50 resin (on the proton cycle). After thorough washing with water, the column is developed with 5% pyridine. The eluent is lyophilized to yield the product as a white solid (0.085 g). The sample analyzes for C17H23N2O5S.1/2H2O.

reactant | 4-[Carbomethoxymethyl]-6-[carboethoxy-3-phenyl propylamino]-perhydro-1,4-thiazepin-5-one | 0.1 g | C(=O)(OC)CN1CCSCC(C1=O)N(CCCC1=CC=CC=C1)C(=O)OCC | C20H28N2O5S
reactant | water | 2 ml | O | H2O
solvent | methanol | 1.5 ml | CO | CH4O
solvent | sodium hydroxide | 1M, 0.5 ml | [OH-].[Na+]
product | 4-N-(Carboxymethyl)-6-[carboxy-3-phenylpropylamino]-perhydro-1,4-thiazepin-5-one | 0.085 g | C(=O)(O)CN1CCSCC(C1=O)N(CCCC1=CC=CC=C1)C(=O)O | C17H22N2O5S
